US08609794B2
To a stirred solution of 10 g of 2,4-difluorophenol in 300 mL of methanol at 0° C., add 22.5 g (150.2 millimoles (mmol) of NaI and 3.08 g (77 mmol) of NaOH. To the resulting mixture add 175 mL of 5% aqueous NaOCl solution (commercial bleach) over a one hour period. Stir the resulting slurry for one more hour at 0° C. Add 100 mL of 10% aqueous Na2S2O3 solution, and acidify the resulting reaction mixture by adding dilute hydrochloric acid. Extract the resulting mixture with methylene chloride, wash the resulting organic layer with brine and dry it over anhydrous magnesium sulfate. Remove solvent and purify the residue by flash chromatography using 50 vol % methylene chloride in hexanes to yield 8.10 g (41.16%) of pure 2,4-difluoro-6-iodophenol (P7) as a white solid.

reactant | 2,4-difluorophenol | 10 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | NaI | 150.2 millimoles | [Na+].[I-]
reactant | NaOH | 77 mmol, 3.08 g | [OH-].[Na+]
reactant | NaOCl | 175 mL | [O-]Cl.[Na+]
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
product | 2,4-difluoro-6-iodophenol | 8.10 g, 41.16% | FC1=C(C(=CC(=C1)F)I)O | C6H3F2IO
